US08071595B2
A solution of 5-(Benzo[c][1,2,5]oxadiazol-5-yl)-4-bromo-2,2-dimethylfuran-3(2H)-one (0.2 g, 0.645 mmol), 2-((4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)methyl)quinoline (0.256 g, 0.709 mmol), and Cs2CO3 (1.0 g, 3.220 mmol) in toluene (10 mL) and water (5 mL) was degassed. Then, Pd(dppf)Cl2(0.105 g, 0.129 mmol) was added under an inert atmosphere and the solution was again degassed. Then the reaction mixture was refluxed for 12 h, filtered through a pad of Celite® and the filtrate was diluted with EtOAc (20 mL). The combined organic layers were washed with water (10 mL) and brine (10 mL), dried over Na2SO4, filtered, and concentrated in vacuo to obtain the crude product. The crude material was purified via silica gel column chromatography to afford 5-(benzo[c][1,2,5]oxadiazol-5-yl)-2,2-dimethyl-4-(4-(quinolin-2-ylmethoxy)phenyl)furan-3(2H)-one (170 mg, 57%) as a yellow color solid. 1H NMR (500 MHz, d6-DMSO): δ 8.44 (d, J=8.5 Hz, 1H), 8.39 (s, 1H), 8.07-8.00 (m, 3H), 7.81 (t, J=8.4 Hz, 1H), 7.70 (d, J=8.2 Hz, 1H), 7.64 (t, J=8.2 Hz, 1H), 7.48 (d, J=8.5 Hz, 2H), 7.25 (d, J=8.3 Hz, 2H), 7.12 (d, J=8.4 Hz, 2H), 5.39 (s, 2H), 1.49 (s, 6H). MS: [M+H]: m/z=464.2. HPLC: 93%, Column: Acquity BEH-C-18, 50×2.1 mm, 1.7 um. Mobile Phase: 0.025% TFA in Water (A), AcN (B), Flow rate: 0.5 ml/min (Gradient).

reactant | 5-(Benzo[c][1,2,5]oxadiazol-5-yl)-4-bromo-2,2-dimethylfuran-3(2H)-one | 0.645 mmol, 0.2 g | N=1ON=C2C1C=CC(=C2)C2=C(C(C(O2)(C)C)=O)Br | C12H9BrN2O3
reactant | 2-((4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)methyl)quinoline | 0.709 mmol, 0.256 g | CC1(OB(OC1(C)C)C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1)C | C22H24BNO3
reactant | Cs2CO3 | 3.220 mmol, 1.0 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 5 mL | O | H2O
catalyst | Pd(dppf)Cl2 | 0.129 mmol, 0.105 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(benzo[c][1,2,5]oxadiazol-5-yl)-2,2-dimethyl-4-(4-(quinolin-2-ylmethoxy)phenyl)furan-3(2H)-one | 170 mg, 57% | N=1ON=C2C1C=CC(=C2)C2=C(C(C(O2)(C)C)=O)C2=CC=C(C=C2)OCC2=NC1=CC=CC=C1C=C2 | C28H21N3O4
